US04927838
As in Example 114, (E)-3-(6-methoxy-3-pentylbenzo[b]thien-2-yl)-2-propenoic acid 4-nitrophenyl ester (4.25 g) was reacted with (R)-α-methyl-3-pyridinebutanamine (1.64 g) in tetrahydrofuran (40 mL). The product was isolated in the usual manner and the crude amide was then crystallized from ethyl acetate to give 3.7 g [R-(E)]-6-methoxy-3-pentylbenzo[b]thien-2-yl)-N-[1-methyl-4-(3-pyridinyl)butyl]-2-propenamide, mp 132°-133° C. Anal. Calcd for C27H34N2O2S: C, 71.96; H, 7.61; N, 6.22; S, 7.11 Found: C, 72.18; H, 7.11; N, 6.27; S, 7.16

reactant | (E)-3-(6-methoxy-3-pentylbenzo[b]thien-2-yl)-2-propenoic acid 4-nitrophenyl ester | 4.25 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=C(S1)C=C(C=C2)OC)CCCCC)=O | C23H23NO5S
reactant | (R)-α-methyl-3-pyridinebutanamine | 1.64 g | C[C@H](CCCC=1C=NC=CC1)N | C10H16N2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | N-[1-methyl-4-(3-pyridinyl)butyl]-2-propenamide | CC(CCCC=1C=NC=CC1)NC(C=C)=O | C13H18N2O
